* PSpice Model Editor - Version 10.5.0
*$
.SUBCKT Ampli_reel plus moins out Vm Vp PARAMS: Ao=30E3 eo=1mV ip=100nA im=100nA Rid=100k Ro=100
V_eo   1 plus     {eo}
I_p    0 1         {ip}
I_m    0 moins     {im}
E_DIFF1         N1 0 VALUE {V(1,moins)}
E1     out   0     value { ( V(Vp) + V(Vm) ) / 2 + ( V(Vp) - V(Vm) ) / 2 * 
+TANH( Ao*(V(N1) - ( V(Vp) + V(Vm) )/2) /(( V(Vp) - V(Vm) )/2) )}
.ENDS
*$
.SUBCKT AmpliBW plus moins out Vm Vp PARAMS: Ao=30E3 f1=30Hz f2=200kHz f3=300kHz
Ein   N1 0 plus moins 1
R1    N1 N2 1k
C1    N2 0  {1/(6280*f1)} IC=100pV
E1    N3 0 N2 0 1
R2    N3 N4 1k
C2    N4 0  {1/(6280*f2)}
E2    N5 0 N4 0 1
R3    N5 N6 1k
C3    N6 0  {1/(6280*f3)}
Eout  out  0     value { ( V(Vp) + V(Vm) ) / 2 + ( V(Vp) - V(Vm) ) / 2 * 
+TANH( Ao*(V(N6) - ( V(Vp) + V(Vm) )/2) /(( V(Vp) - V(Vm) )/2) ) }
.ENDS
*$
.SUBCKT Ampli_parfait plus moins out Vm Vp PARAMS: Ao=30E3 
E_DIFF1         N1 0 VALUE {V(plus,moins)}
E_SLIMIT1         out 0 VALUE { ( V(Vp) + V(Vm) ) / 2 + ( V(Vp) - V(Vm) ) / 2 * 
+TANH( Ao*(V(N1) - ( V(Vp) + V(Vm) )/2) /(( V(Vp) - V(Vm) )/2) )}
.ENDS
.END
*$
